US06627651B1
Into a solution of 4-methoxybenzylamine (4.12 g) and tetrahydro-4H-pyran-4-one (3.00 g) in 1,2-dichloroethane (50 ml) was added sodium triacetoxyborohydride (6.99 g). After stirring at room temperature for 2 hours, 37% formalin solution (2.5 ml) and sodium triacetoxyborohydride (6.99 g) were added thereto. After stirring for additional one hour, the reaction mixture was mixed with an aqueous solution of sodium bicarbonate and was extracted with dichloromethane. The extract was washed with an aqueous solution of sodium chloride, was dried (anhydrous magnesium sulfate) and was then concentrated under reduced pressure. The residue was subjected to purification using silica gel column chromatography (ethyl acetate) to obtain N-methyl-N-(tetrahydropyran-4-yl)-4-methoxybenzylamine (3.56 g) as a light yellow, oily substance.

reactant | 4-methoxybenzylamine | 4.12 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | tetrahydro-4H-pyran-4-one | 3.00 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 6.99 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formalin | 2.5 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 6.99 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | N-methyl-N-(tetrahydropyran-4-yl)-4-methoxybenzylamine | 3.56 g | CN(C1CCOCC1)CC1=CC=C(C=C1)OC | C14H21NO2
